US04530929
A solution of 2-nitro-1,3-benzenediacrylic acid diethyl ester (3.5 g, 0.011 mole) in absolute ethanol (100 ml) is treated with hydrogen at 1 atmosphere pressure for 12 hours in the presence of 20% Pd/C. The mixture is filtered and concentrated at reduced pressure to yield 1,2,3,4-tetrahydro-2-oxo-8-quinolinepropanoic acid ethyl ester, mp 102°-103° C.

reactant | 2-nitro-1,3-benzenediacrylic acid diethyl ester | 0.011 mole, 3.5 g | C(C)OC(C=CC1=C(C(=CC=C1)C=CC(=O)OCC)[N+](=O)[O-])=O | C16H17NO6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1,2,3,4-tetrahydro-2-oxo-8-quinolinepropanoic acid ethyl ester | C(C)OC(CCC=1C=CC=C2CCC(NC12)=O)=O | C14H17NO3
